US07273868B2
To a solution of 4-(2-hydroxyethyl)phenol 9.50 g in acetic acid 60 ml is dropped bromine 3.54 ml over a period of 10 minutes on a water bath, and the mixture is stirred for 15 minutes. The reaction mixture is diluted with water and extracted with ethyl acetate. The ethyl acetate layer is washed, dried and concentrated in vacuo. The residue is dissolved in methanol 120 ml and thereto is added potassium carbonate 25 g. The mixture is stirred at room temperature for 5 hours. and then diluted with water and with ethyl acetate. The solution is acidified with concentrated sulfuric acid. The organic layer is extracted with ethyl acetate, washed, dried and concentrated in vacuo. The residue is crystallized from chloroform to give 2-bromo-4-(2-hydroxyethyl)phenol as a slightly brown crystalline powder 9.37 g. mp 83-85° C.

reactant | 4-(2-hydroxyethyl)phenol | 9.50 g | OCCC1=CC=C(C=C1)O | C8H10O2
reactant | bromine | 3.54 ml | BrBr | Br2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-bromo-4-(2-hydroxyethyl)phenol | BrC1=C(C=CC(=C1)CCO)O | C8H9BrO2
